US08445530B2
2-{3-[2-(2-Fluoro-phenyl)-2-hydroxy-ethoxy]-4-methoxy-benzoylamino}-indane-2-carboxylic acid
The title compound was prepared according to the general procedure described in example 125 using 0.25 g of resin (0.5 mmol/g). Attachment of the 2-amino-indane-2-carboxylic acid moiety to the resin was followed by acylation with 3-hydroxy-4-methoxy-benzoic acid and treatment with 50% piperidine in DMF for 2 h. After extensive washing with DMF and DCM the resin was reacted with 2-bromo-1-(2-fluoro-phenyl)-ethanone (3 equivalents) in the presence of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 3 equivalents) in 3 ml of DCM overnight at room temperature. The compound was cleaved from the resin with neat TFA for 2 h, and TFA was evaporated in vacuo. The crude intermediate product was dissolved in 4 ml of THF, 10 mg of lithium borohydride were added and the reaction mixture was shaken for 3 h. Then the reaction mixture was quenched with acetic acid, evaporated to dryness, and the residue was purified by preparative RP HPLC (water/ACN gradient). Yield: 3.7 mg.

reactant | 2-amino-indane-2-carboxylic acid | NC1(CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
reactant | 3-hydroxy-4-methoxy-benzoic acid | OC=1C=C(C(=O)O)C=CC1OC | C8H8O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2-bromo-1-(2-fluoro-phenyl)-ethanone | 3 equivalents | BrCC(=O)C1=C(C=CC=C1)F | C8H6BrFO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-{3-[2-(2-Fluoro-phenyl)-2-hydroxy-ethoxy]-4-methoxy-benzoylamino}-indane-2-carboxylic acid | FC1=C(C=CC=C1)C(COC=1C=C(C(=O)NC2(CC3=CC=CC=C3C2)C(=O)O)C=CC1OC)O | C26H24FNO6
